### PR TITLE
[Merged by Bors] - feat(Analysis/SchwartzMap): estimates for `Lp` and `BCF` norms

### PR DESCRIPTION
**Pull request by mcdoll**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Distribution/SchwartzSpace/Fourier.lean [hunk 1]
```diff
@@ -303,6 +295,29 @@ theorem integral_sesq_fourier_fourier (f : 𝓢(V, E)) (g : 𝓢(V, F)) (M : E 
 
 end fubini
 
+section L1
+
+variable {F : Type*} [NormedAddCommGroup F] [NormedSpace ℂ F]
+
+@[simp]
```
Comment (j-loreaux) [inline Mathlib/Analysis/Distribution/SchwartzSpace/Fourier.lean]: I think it's slightly strange for this inequality to be `simp`. If you want to leave it though you can, my preference on this is not very strong.

File: Mathlib/Analysis/Distribution/SchwartzSpace/Basic.lean [hunk 2]
```diff
@@ -1257,6 +1253,25 @@ theorem norm_toLp {f : 𝓢(E, F)} {p : ℝ≥0∞} {μ : Measure E} [hμ : μ.H
...
+  simpa using norm_toLp' (p := 1) (by simp) (by simp)
+
+theorem norm_toLp_top_le {f : 𝓢(E, F)} {μ : Measure E} [hμ : μ.HasTemperateGrowth] :
+    ‖f.toLp ⊤ μ‖ ≤ SchwartzMap.seminorm ℝ 0 0 f := by
+  rw [norm_toLp]
+  rw [← ENNReal.ofReal_le_ofReal_iff (by positivity)]
+  rw [ENNReal.ofReal_toReal (memLp_top f μ).eLpNorm_ne_top]
+  apply eLpNormEssSup_le_of_ae_bound
+  filter_upwards with x
+  exact norm_le_seminorm ℝ f x
```
Comment (j-loreaux) [inline Mathlib/Analysis/Distribution/SchwartzSpace/Basic.lean]:
```suggestion
  rw [norm_toLp, ← ENNReal.ofReal_le_ofReal_iff (by positivity),
    ENNReal.ofReal_toReal (memLp_top f μ).eLpNorm_ne_top]
  exact eLpNormEssSup_le_of_ae_bound <| .of_forall <| norm_le_seminorm ℝ f
```

File: Mathlib/Analysis/Distribution/SchwartzSpace/Fourier.lean [hunk 3]
```diff
@@ -303,6 +295,29 @@ theorem integral_sesq_fourier_fourier (f : 𝓢(V, E)) (g : 𝓢(V, F)) (M : E 
...
+theorem norm_fourier_apply_le_toLp_one (f : 𝓢(V, F)) (x : V) :
+    ‖𝓕 f x‖ ≤ ‖f.toLp 1‖ := by
+  calc
+    _ = ‖∫ (v : V), 𝐞 (-inner ℝ v x) • f v‖ := by rw [fourier_coe, Real.fourier_eq]
+    _ ≤ ∫ (v : V), ‖𝐞 (-inner ℝ v x) • f v‖ := norm_integral_le_integral_norm _
+    _ = _ := by simp [norm_toLp_one]
```
Comment (j-loreaux) [inline Mathlib/Analysis/Distribution/SchwartzSpace/Fourier.lean]:
```suggestion
    ‖𝓕 f x‖ ≤ ‖f.toLp 1‖ := calc
  _ = ‖∫ (v : V), 𝐞 (-inner ℝ v x) • f v‖ := by rw [fourier_coe, Real.fourier_eq]
  _ ≤ ∫ (v : V), ‖𝐞 (-inner ℝ v x) • f v‖ := norm_integral_le_integral_norm _
  _ = _ := by simp [norm_toLp_one]
```

**Review by j-loreaux — COMMENTED** [review]
Thanks!

bors d+

**Comment by mcdoll** [comment]
bors merge
